US04537895
A mixture of 7 g (0.02 mole) of 4-phenyl-8-chloro-acetylamino-2-methyl-1,2,3,4-tetrahydro-isoquinoline-hydrochloride, 70 ml of ethanol and 20 ml (20.0 g, 0.23 mole) of morpholine is refluxed for 5 hours. The reaction mixture is evaporated in vacuo, the residue is dissolved in a mixture of 200 ml of water and 200 ml of ether, 30 ml of a 30% aqueous sodium hydroxide solution is added, the layers are separated and the aqueous phase is extracted four times with 200 ml of ether each. The united ether solutions are dried over anhydrous sodium sulfate and evaporated. The oily residue (6.7 g) is dissolved in 100 ml of ethanol and a solution of 6.6 g (0.057 mole) of maleic acid and 30 ml of methanol is added. The precipitated product is filtered in the cold. The beige coloured dimaleate (10.7 g) is dissolved in 100 ml of water, the solution is made alkaline by adding 60 ml of a 35% aqueous sodium hydroxide solution and extracted once with 200 ml and four times with 100 ml of ether each. The ether phases are united, dried over anhydrous sodium sulfate, clarified with activated charcoal and dried. The ether is evaporated and the residue is crystallized from a mixture of ether and petrolether. Thus 5.1 g of (0.014 mole) of white crystalline 4-phenyl-2-methyl-8-morpholino-acetylamino-1,2,3,4-tetrahydro-isoquinoline are obtained. Mp.: 120° C.

reactant | 4-phenyl-8-chloro-acetylamino-2-methyl-1,2,3,4-tetrahydro-isoquinoline-hydrochloride | 0.02 mole, 7 g | Cl.C1(=CC=CC=C1)C1CN(C(C2=C(C=CC=C12)Cl)NC(C)=O)C
reactant | ethanol | 70 ml | C(C)O | C2H6O
reactant | morpholine | 0.23 mole, 20 ml, 20.0 g | N1CCOCC1 | C4H9NO
reactant | maleic acid | 0.057 mole, 6.6 g | C(\C=C/C(=O)O)(=O)O | C4H4O4
solvent | methanol | 30 ml | CO | CH4O
product | 4-phenyl-2-methyl-8-morpholino-acetylamino-1,2,3,4-tetrahydro-isoquinoline | 0.014 mole, 5.1 g | C1(=CC=CC=C1)C1CN(C(C2=C(C=CC=C12)N1CCOCC1)NC(C)=O)C | C22H27N3O2
